US04083948
2-Amino-5-chloro-4'-hydroxybenzophenone
To a solution of 83.7 g (0.34 mole) of 5-chloro-3-(4-hydroxyphenyl)-2,1-benzisoxazole in 1500 ml of glacial acetic acid was added 45 g of iron filings. The mixture was stirred and heated on the steam bath for 20 min. Every 30 min. an additional 20 g of iron filings and 100 ml of water was added for 2.5 hr. After 30 min. more, the reaction mixture was filtered while hot. The collected precipitate was heated with acetic acid and filtered. The combined filtrates were diluted with ice water to precipitate 39.8 g (47%) of product, mp 170°-175°. Recrystallization from methanol-water gave yellow rods, mp 173°-178°.

reactant | 5-chloro-3-(4-hydroxyphenyl)-2,1-benzisoxazole | 0.34 mole, 83.7 g | ClC=1C=CC=2C(=C(ON2)C2=CC=C(C=C2)O)C1 | C13H8ClNO2
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 1500 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 45 g | [Fe] | Fe
catalyst | iron | 20 g | [Fe] | Fe
product | 2-Amino-5-chloro-4'-hydroxybenzophenone | NC1=C(C(=O)C2=CC=C(C=C2)O)C=C(C=C1)Cl | C13H10ClNO2
